US09315521B2
In a 250 mL round bottom flask, 2-fluoropyridine-3-carbaldehyde (2.5 g, 20 mmol) was dissolved in anhydrous ethanol (20 mL). The solution was cooled to 0° C. under nitrogen. NaBH4 (1.5 g, 40 mmol) was added in one portion. The mixture was stirred at room temperature for 2 hours and quenched by addition of water (5 mL). Na2SO4 (20 g) was added. After 10 minutes, the mixture was filtered. The filtrate was evaporated to provide (2-fluoropyridin-3-yl)methanol.

reactant | 2-fluoropyridine-3-carbaldehyde | 20 mmol, 2.5 g | FC1=NC=CC=C1C=O | C6H4FNO
reactant | NaBH4 | 40 mmol, 1.5 g | [BH4-].[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | (2-fluoropyridin-3-yl)methanol | FC1=NC=CC=C1CO | C6H6FNO
